US08283363B2
79.1 Ethyl 3-((R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoate
The reaction was carried out in analogy to reaction step 20.1 by reacting (R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxylic acid and 4-ethoxy-3-hydroxy-4-oxo-1-phenylbutan-2-aminium chloride. ESI-MS [M+H]+=443.2.

reactant | (R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxylic acid | FC1=C(CN2[C@H](CCC2=O)C(=O)O)C=CC=C1 | C12H12FNO3
reactant | 4-ethoxy-3-hydroxy-4-oxo-1-phenylbutan-2-aminium chloride | [Cl-].C(C)OC(C(C(CC1=CC=CC=C1)[NH3+])O)=O
product | Ethyl 3-((R)-1-(2-fluorobenzyl)-5-oxopyrrolidine-2-carboxamido)-2-hydroxy-4-phenylbutanoate | FC1=C(CN2[C@H](CCC2=O)C(=O)NC(C(C(=O)OCC)O)CC2=CC=CC=C2)C=CC=C1 | C24H27FN2O5
